***********
*SRC=LF351S;LF351S;Opamps;SGS;General Purpose JFET
*SYM=SGSOPAMP
.SUBCKT LF351S 1 3 2 4 5
*             - O + V+ V-
.MODEL MDTH D IS=1E-8 KF=5.306587E-14 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 1.130435E+00
RIN 15 16 1.130435E+00
RIS 11 15 2.476554E-01
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 15 5 2.300000E-04
CPS 11 15 4.091333E-08
DINN 17 13 MDTH 400E-12
VIN 17 5 3.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 0.000000E+00
FCP 4 5 VOFP 6.096957E+00
FCN 5 4 VOFN 6.096957E+00
* AMPLIFYING STAGE
FIP 5 19 VOFP 8.217391E+02
FIN 5 19 VOFN 8.217391E+02
RG1 19 5 1.112645E+06
RG2 19 4 1.112645E+06
CC 19 29 1.300000E-08
HZTP 30 29 VOFP 7.743183E+02
HZTN 5 30 VOFN 7.743183E+02
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 3.750000E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 3.750000E+03
VINM 5 27 1.500000E+02
EOUT 26 23 19 5 1
VOUT 23 5 0
ROUT 26 3 9.384786E+01
COUT 3 5 1.000000E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 3.259753E+00
DON 24 19 MDTH 400E-12
VON 24 5 3.259753E+00
.ENDS
**********
*SRC=LF355S;LF355S;Opamps;SGS;General Purpose JFET
*SYM=SGSOPAMP
.SUBCKT LF355S 1 3 2 4 5
*             - O + V+ V-
.MODEL MDTH D IS=1E-8 KF=4.101796E-15 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 2.600000E+00
RIN 15 16 2.600000E+00
RIS 11 15 1.124311E+00
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 1.000000E-04
CPS 11 15 1.537269E-08
DINN 17 13 MDTH 400E-12
VIN 17 5 3.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 0.000000E+00
FCP 4 5 VOFP 1.900000E+01
FCN 5 4 VOFN 1.900000E+01
* AMPLIFYING STAGE
FIP 5 19 VOFP 4.000000E+02
FIN 5 19 VOFN 4.000000E+02
RG1 19 5 2.920692E+06
RG2 19 4 2.920692E+06
CC 19 29 8.000000E-09
HZTP 30 29 VOFP 9.527620E+02
HZTN 5 30 VOFN 9.527620E+02
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 5.556E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 6.000000E+03
VINM 5 27 1.500000E+02
EOUT 26 23 19 5 1
VOUT 23 5 0
ROUT 26 3 212
COUT 3 5 1.000000E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 2.532097E+00
DON 24 19 MDTH 400E-12
VON 24 5 2.532097E+00
.ENDS
**********
*SRC=LF356S;LF356S;Opamps;SGS;Medium Speed JFET
*SYM=SGSOPAMP
.SUBCKT LF356S 1 3 2 4 5
*             - O + V+ V-
.MODEL MDTH D IS=1E-8 KF=3.691580E-15 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 1.040000E+00
RIN 15 16 1.040000E+00
RIS 11 15 3.460373E-01
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 2.500000E-04
CPS 11 15 2.486693E-08
DINN 17 13 MDTH 400E-12
VIN 17 5 3.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 0.000000E+00
FCP 4 5 VOFP 1.900000E+01
FCN 5 4 VOFN 1.900000E+01
* AMPLIFYING STAGE
FIP 5 19 VOFP 3.840000E+02
FIN 5 19 VOFN 3.840000E+02
RG1 19 5 1.516513E+06
RG2 19 4 1.516513E+06
CC 19 29 8.000000E-09
HZTP 30 29 VOFP 4.749152E+02
HZTN 5 30 VOFN 4.749152E+02
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 5.555556E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 6.000000E+03
VINM 5 27 1.500000E+02
EOUT 26 23 19 5 1
VOUT 23 5 0
ROUT 26 3 7.299278E+01
COUT 3 5 1.000000E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 2.825921E+00
DON 24 19 MDTH 400E-12
VON 24 5 2.825921E+00
.ENDS
**********
*SRC=LF357S;LF357S;Opamps;SGS;High Speed JFET
*SYM=SGSOPAMP
.SUBCKT LF357S 1 3 2 4 5
.MODEL MDTH D IS=1E-8 KF=5.020535E-15 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 7.647059E-01
RIN 15 16 7.647059E-01
RIS 11 15 2.318846E-01
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 3.400000E-04
CPS 11 15 9.525690E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 3.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 0.000000E+00
FCP 4 5 VOFP 1.370588E+01
FCN 5 4 VOFN 1.370588E+01
* AMPLIFYING STAGE
FIP 5 19 VOFP 1.176471E+03
FIN 5 19 VOFN 1.176471E+03
RG1 19 5 3.942935E+05
RG2 19 4 3.942935E+05
CC 19 29 8.000000E-09
HZTP 30 29 VOFP 3.783026E+02
HZTN 5 30 VOFN 3.783026E+02
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 5.555556E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 6.000000E+03
VINM 5 27 1.500000E+02
EOUT 26 23 19 5 1
VOUT 23 5 0
ROUT 26 3 1.897812E+01
COUT 3 5 1.000000E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 2.833915E+00
DON 24 19 MDTH 400E-12
VON 24 5 2.833915E+00
.ENDS
**********
*SRC=LM311S;LM311S;Comparators;SGS;General Purpose Bipolar
*SYM=SGSOPAMP
.SUBCKT LM311S 1 3 2 4 5
.MODEL MDTH D IS=1E-11 KF=1.050321E-32 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 102 0 2 0 1
VIO 10 102 888U
EIN 16 0 1 0 1
RIP 10 11 6.500000E+01
RIN 15 16 6.500000E+01
RIS 11 15 1.939046E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0.000000E+00
VOFN 13 14 DC 0
IPOL 13 0 100E-06
CPS 11 15 9.5E-10
DINN 17 13 MDTH 400E-12
VIN 17 5 0.300000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 1.200000E+00
FCP 4 5 VOFP 51
FCN 5 4 VOFN 51
FIBP 2 0 VOFN 1.2E-03
FIBN 0 1 VOFP 1.2E-03
* AMPLIFYING STATE
RG1 5 19 2.85E+05
RG2 4 19 2.85E+05
DOP 19 25 MDTH 400E-12
VOP 4 25 1.097
DON 24 19 MDTH 400E-12
VON 24 5 1.097
FIP 0 19 VOFP -104
FIN 0 19 VOFN -104
EOUT 26 5 19 5 1
.MODEL NMOD NPN(IS=0.1E-09 BF=2000)
RBOUT 27 26 800K
QOUT 103 27 28 28 NMOD
RCEOUT 103 28 5.3E+11
REOUT 28 5 10
RSOUT 3 0 1E+12
VNUL 3 103 0
.ENDS
**********
*SRC=LM319S;LM319S;Comparators;SGS;High Speed Bipolar
*SYM=SGSOPAMP
.SUBCKT LM319S 1 3 2 4 5
.MODEL MDTH D IS=1E-11 KF=1.050321E-32 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 102 0 2 0 1
VIO 10 102 888U
EIN 16 0 1 0 1
RIP 10 11 6.500000E+01
RIN 15 16 6.500000E+01
RIS 11 15 1.939046E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0.000000E+00
VOFN 13 14 DC 0
IPOL 13 0 100E-06
CPS 11 15 3.7E-10
DINN 17 13 MDTH 400E-12
VIN 17 5 2.000000E+00
DINR 15 18 MDTH 400E-12
VIP 4 18 2.000000E+00
FCP1 4 0 VOFP 80
FCP2 0 4 VOFN 80
FCN1 0 5 VOFP 30
FCN2 5 0 VOFN 30
FIBP 2 0 VOFN 3E-03
FIBN 0 1 VOFP 3E-03
* AMPLIFYING STATE
RG1 5 19 2.85E+05
RG2 4 19 2.85E+05
DOP 19 25 MDTH 400E-12
VOP 4 25 1.097
DON 24 19 MDTH 400E-12
VON 24 5 1.097
FIP 0 19 VOFP -104
FIN 0 19 VOFN -104
EOUT 26 5 19 5 1
.MODEL NMOD NPN(IS=0.1E-09 BF=1500)
RBOUT 27 26 800K
QOUT 103 27 28 28 NMOD
RCEOUT 103 28 15.02E+07
REOUT 28 5 20
RSOUT 3 0 1E+12
VNUL 3 103 0
.ENDS
**********
*SRC=LM124S;LM124S;Opamps;SGS;Single Supply Bipolar
*SYM=SGSOPAMP
.SUBCKT LM124S 1 3 2 4 5
.MODEL MDTH D IS=1E-8 KF=3.104131E-15 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 2.600000E+01
RIN 15 16 2.600000E+01
RIS 11 15 2.003862E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 1.000000E-05
CPS 11 15 3.783376E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 0.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 2.000000E+00
FCP 4 5 VOFP 3.400000E+01
FCN 5 4 VOFN 3.400000E+01
FIBP 2 5 VOFN 2.000000E-03
FIBN 5 1 VOFP 2.000000E-03
* AMPLIFYING STATE
FIP 5 19 VOFP 3.600000E+02
FIN 5 19 VOFN 3.600000E+02
RG1 19 5 3.652997E+06
RG2 19 4 3.652996E+06
CC 19 5 6.000000E-09
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 7.500000E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 7.500000E+03
VINM 5 27 1.500000E+02
EOUT 26 23 19 5 1
VOUT 23 5 0
ROUT 26 3 20
COUT 3 5 1.00000E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 2.242230E+00
DON 24 19 MDTH 400E-12
VON 24 5 7.922301E-01
.ENDS
**********
*SRC=LM139S;LM139S;Comparators;SGS;General Purpose JFET
*SYM=SGSOPAMP
.SUBCKT LM139S 1 3 2 4 5
.MODEL MDTH D IS=1E-11 KF=1.050321E-32 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 102 0 2 0 1
VIO 10 102 438.3U
EIN 16 0 1 0 1
RIP 10 11 6.500000E+01
RIN 15 16 6.500000E+01
RIS 11 15 1.939046E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0.000000E+00
VOFN 13 14 DC 0
IPOL 13 0 100E-06
CPS 11 15 5.5E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 0.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 1.500000E+00
FCP 4 5 VOFP 0.175
FCN 5 4 VOFN 0.175
FIBP 2 0 VOFN 2.000000E-08
FIBN 0 1 VOFP 2.000000E-08
* AMPLIFYING STATE
RG1 5 19 2.85E+05
RG2 4 19 2.85E+05
DOP 19 25 MDTH 400E-12
VOP 4 25 1.097
DON 24 19 MDTH 400E-12
VON 24 5 1.097
FIP 0 19 VOFP -104
FIN 0 19 VOFN -104
EOUT 26 5 19 5 1
.MODEL NMOD NPN(IS=0.1E-09 BF=4000)
RBOUT 27 26 800K
QOUT 103 27 28 28 NMOD
REOUT 28 5 20
RSOUT 3 0 1E+12
VNUL 3 103 0
DSTOP 32 103 MDTH 400E-12
HSTOP 32 33 VNUL 135
VSTOP 33 5 0.5
.ENDS
**********
*SRC=LM146S;LM146S;Opamps;SGS;Programmable Bipolar
*SYM=SGSOPAMP
.SUBCKT LM146S 1 3 2 4 5
.MODEL MDTH D IS=1E-8 KF=8.043451E-16 CJO=10F
*INPUT STAGE
CIP 2 5 2.000000E-12
CIN 1 5 2.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 2.600000E+01
RIN 15 16 2.600000E+01
RIS 11 15 1.433696E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0.000000E+00
VOFN 13 14 DC 0
IPOL 13 5 1.000000E-05
CPS 11 15 1.480893E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 1.500000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 1.500000E+00
FCP 4 5 VOFP 2.400000E+01
FCN 5 4 VOFN 2.400000E+01
FIBP 2 5 VOFN 6.000000E-03
FIBN 5 1 VOFP 6.000000-03
* AMPLIFYING STAGE
FIP 5 19 VOFP 3.500000E+02
FIN 5 19 VOFN 3.500000E+02
RG1 19 5 4.064019E+07
RG2 19 4 4.064019E+07
CC 19 29 7.000000E-09
HZTP 30 29 VOFP 8.414314E+02
HZTN 5 30 VOFN 8.414314E+02
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 7.500000E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 7.500000E+03
VINM 5 27 1.500000E+02
EOUT 26 23 19 5 1
VOUT 23 5 0
ROUT 26 3 200
COUT 3 5 1.000000E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 1.462230E+00
DON 24 19 MDTH 400E-12
VON 24 5 1.462230E+00
.ENDS
**********
*SRC=LM148S;LM148S;Opamps;SGS;General Purpose Bipolar
*SYM=SGSOPAMP
.SUBCKT LM148S 1 3 2 4 5
.MODEL MDTH D IS=1E-8 KF=2.298361E-15 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 1.857143E+01
RIN 15 16 1.857143E+01
RIS 11 15 1.225212E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 1.400000E-05
CPS 11 15 4.797971E-10
DINN 17 13 MDTH 400E-12
VIN 17 5 3.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 3.000000E+00
FCP 4 5 VOFP 3.685714E+01
FCN 5 4 VOFN 3.685714E+01
FIBP 2 5 VOFP 4.285714E-03
FIBN 5 1 VOFN 4.285714E-03
* AMPLIFYING STAGE
FIP 5 19 VOFP 1.178571E+02
FIN 5 19 VOFN 1.178571E+02
RG1 19 5 1.306798E+07
RG2 19 4 1.306798E+07
CC 19 29 3.000000E-09
HZTP 30 29 VOFP 1.422562E+03
HZTN 5 30 VOFN 1.422562E+03
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 6.000000E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 6.000000E+03
VINM 5 27 1.500000E+02
EOUT 26 23 19 5 1
VOUT 23 5 0
ROUT 26 3 200
COUT 3 5 1.000000E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 2.550978E+00
DON 24 19 MDTH 400E-12
VON 24 5 2.550978E+00
.ENDS
**********
*SRC=LM158S;LM158S;Opamps;SGS;Single Supply Bipolar
*SYM=SGSOPAMP
.SUBCKT LM158S 1 3 2 4 5
.MODEL MDTH D IS=1E-8 KF=3.104131E-15 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 2.600000E+01
RIN 15 16 2.600000E+01
RIS 11 15 2.003862E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 1.000000E-05
CPS 11 15 3.783376E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 0.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 2.000000E+00
FCP 4 5 VOFP 3.400000E+01
FCN 5 4 VOFN 3.400000E+01
FIBP 2 5 VOFN 2.000000E-03
FIBN 5 1 VOFP 2.000000E-03
* AMPLIFYING STATE
FIP 5 19 VOFP 3.600000E+02
FIN 5 19 VOFN 3.600000E+02
RG1 19 5 3.652997E+06
RG2 19 4 3.652996E+06
CC 19 5 6.000000E-09
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 7.500000E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 7.500000E+03
VINM 5 27 1.500000E+02
EOUT 26 23 19 5 1
VOUT 23 5 0
ROUT 26 3 20
COUT 3 5 1.000000E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 2.242230E+00
DON 24 19 MDTH 400E-12
VON 24 5 7.922301E-01
.ENDS
**********
*SRC=LM193S;LM193S;Comparators;SGS;General Purpose Bipolar
*SYM=SGSOPAMP
.SUBCKT LM193S 1 3 2 4 5
.MODEL MDTH D IS=1E-11 KF=1.050321E-32 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 102 0 2 0 1
VIO 10 102 438.3U
EIN 16 0 1 0 1
RIP 10 11 6.500000E+01
RIN 15 16 6.500000E+01
RIS 11 15 1.939046E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0.000000E+00
VOFN 13 14 DC 0
IPOL 13 0 100E-06
CPS 11 15 5.5E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 0.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 1.500000E+00
FCP 4 5 VOFP 0.175
FCN 5 4 VOFN 0.175
FIBP 2 0 VOFN 2.000000E-08
FIBN 0 1 VOFP 2.000000E-08
* AMPLIFYING STATE
RG1 5 19 2.85E+05
RG2 4 19 2.85E+05
DOP 19 25 MDTH 400E-12
VOP 4 25 1.097
DON 24 19 MDTH 400E-12
VON 24 5 1.097
FIP 0 19 VOFP -104
FIN 0 19 VOFN -104
EOUT 26 5 19 5 1
.MODEL NMOD NPN(IS=0.1E-09 BF=4000)
RBOUT 27 26 800K
QOUT 103 27 28 28 NMOD
REOUT 28 5 20
RSOUT 3 0 1E+12
VNUL 3 103 0
DSTOP 32 103 MDTH 400E-12
HSTOP 32 33 VNUL 135
VSTOP 33 5 0.5
.ENDS
**********
*SRC=LM833S;LM833S;Opamps;SGS;Low Noise Bipolar
*SYM=SGSOPAMP
.SUBCKT LM833S 1 3 2 4 5
.MODEL MDTH D IS=1E-8 KF=2.286238E-16 CJO=10F
*INPUT STAGE
CIP 2 5 1.2000000E-11
CIN 1.5 1.2000000E-11
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 2.363636E+00
RIN 15 16 2.363636E+00
RIS 11 15 1.224040E+01
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 1.100000E-04
CPS 11 15 2.35E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 1.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 1.000000E+00
FCP 4 5 VOFP 1.718182E+01
FCN 5 4 VOFN 1.718182E+01
FIBP 2 5 VOFN 4.545455E-03
FIBN 5 1 VOFP 4.545455E-03
* AMPLIFYING STAGE
FIP 5 19 VOFP 9.545455E+02
FIN 5 19 VOFN 9.545455E+02
CC 19 29 1.500000E-08
HZTP 30 29 VOFP 1.523529E+02
HZTN 5 30 VOFN 1.523529E+02
DOPM 51 22 MDTH 400E-12
DONM 21 52 MDTH 400E-12
HOPM 28 28 VOUT 5.172414E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 4.054054E+03
VINM 5 27 1.500000+02
DBIDON1 19 53 MDTH 400E-12
V1 51 53 0.68
DBIDON2 54 19 MDTH 400E-12
V2 54 52 0.68
RG11 51 5 3.04E+05
RG12 51 4 3.04E+05
RG21 52 5 0.6072E+05
RG22 52 4 O.6072E+05
E1 50 40 51 0 1
E2 40 39 52 0 1
EDEC1 38 39 4 0 0.5
EDEC2 0 38 5 0 0.5
DOP 51 25 MDTH 400E-12
VOP 4 25 1.474575E+00
RAJUS 50 5 1E12
GCOMP 5 4 4 5 8.1566068E-04
RPM1 5 80 1E+06
RPM2 4 80 1E+06
GAVPH 5 82 50 80 3.26E-03
RAVPHGH 82 4 613
RAVPHGB 82 5 613
RAVPHDH 82 83 1000
RAVPHDB 82 84 1000
CAVPHH 4 83 0.159E-09
CAVPHB 5 84 0.159E-09
EOUT 26 23 82 5 1
VOUT 23 5 0
ROUT 26 3 4.780354E+01
COUT 3 5 1.000000E-12
.ENDS
**********
*SRC=LM2901S;LM2901S;Comparators;SGS;General Purpose Bipolar
*SYM=SGSOPAMP
.SUBCKT LM2901S 1 3 2 4 5
.MODEL MDTH D IS=1E-11 KF=1.050321E-32 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 102 0 2 0 1
VIO 10 102 438.3U
EIN 16 0 1 0 1
RIP 10 11 6.500000E+01
RIN 15 16 6.500000E+01
RIS 11 15 1.939046E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0.000000E+00
VOFN 13 14 DC 0
IPOL 13 0 100E-06
CPS 11 15 5.5E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 0.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 1.500000E+00
FCP 4 5 VOFP 0.175
FCN 5 4 VOFN 0.175
FIBP 2 0 VOFN 2.000000E-08
FIBN 0 1 VOFP 2.000000E-08
* AMPLIFYING STATE
RG1 5 19 2.85E+05
RG2 4 19 2.85E+05
DOP 19 25 MDTH 400E-12
VOP 4 25 1.097
DON 24 19 MDTH 400E-12
VON 24 5 1.097
FIP 0 19 VOFP -104
FIN 0 19 VOFN -104
EOUT 26 5 19 5 1
.MODEL NMOD NPN(IS=0.1E-09 BF=4000)
RBOUT 27 26 800K
QOUT 103 27 28 28 NMOD
REOUT 28 5 20
RSOUT 3 0 1E+12
VNUL 3 103 0
DSTOP 32 103 MDTH 400E-12
HSTOP 32 33 VNUL 135
VSTOP 33 5 0.5
.ENDS
**********
*SRC=LM2902S;LM2902S;Comparators;SGS;General Purpose Bipolar
*SYM=SGSOPAMP
.SUBCKT LM2902S 1 3 2 4 5
.MODEL MDTH D IS=1E-8 KF=3.104131E-15 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 2.600000E+01
RIN 15 16 2.600000E+01
RIS 11 15 2.003862E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 1.000000E-05
CPS 11 15 3.783376E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 0.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 2.000000E+00
FCP 4 5 VOFP 3.400000E+01
FCN 5 4 VOFN 3.400000E+01
FIBP 2 5 VOFN 2.000000E-03
FIBN 5 1 VOFP 2.000000E-03
* AMPLIFYING STATE
FIP 5 19 VOFP 3.600000E+02
FIN 5 19 VOFN 3.600000E+02
RG1 19 5 3.652997E+06
RG2 19 4 3.652996E+06
CC 19 5 6.000000E-09
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 7.500000E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 7.500000E+03
VINM 5 27 1.500000E+02
EOUT 26 23 19 5 1
VOUT 23 5 0
ROUT 26 3 20
COUT 3 5 1.000000E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 2.242230E+00
DON 24 19 MDTH 400E-12
VON 24 5 7.922301E-01
.ENDS
**********
*SRC=LM2903S;LM2903S;Comparators;SGS;General Purpose Bipolar
*SYM=SGSOPAMP
.SUBCKT LM2903S 1 3 2 4 5
.MODEL MDTH D IS=1E-11 KF=1.050321E-32 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 102 0 2 0 1
VIO 10 102 438.3U
EIN 16 0 1 0 1
RIP 10 11 6.500000E+01
RIN 15 16 6.500000E+01
RIS 11 15 1.939046E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0.000000E+00
VOFN 13 14 DC 0
IPOL 13 0 100E-06
CPS 11 15 5.5E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 0.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 1.500000E+00
FCP 4 5 VOFP 0.175
FCN 5 4 VOFN 0.175
FIBP 2 0 VOFN 2.000000E-08
FIBN 0 1 VOFP 2.000000E-08
* AMPLIFYING STATE
RG1 5 19 2.85E+05
RG2 4 19 2.85E+05
DOP 19 25 MDTH 400E-12
VOP 4 25 1.097
DON 24 19 MDTH 400E-12
VON 24 5 1.097
FIP 0 19 VOFP -104
FIN 0 19 VOFN -104
EOUT 26 5 19 5 1
.MODEL NMOD NPN(IS=0.1E-09 BF=4000)
RBOUT 27 26 800K
QOUT 103 27 28 28 NMOD
REOUT 28 5 20
RSOUT 3 0 1E+12
VNUL 3 103 0
DSTOP 32 103 MDTH 400E-12
HSTOP 32 33 VNUL 135
VSTOP 33 5 0.5
.ENDS
**********
*SRC=LM2904S;LM2904S;Comparators;SGS;General Purpose Bipolar
*SYM=SGSOPAMP
.SUBCKT LM2904S 1 3 2 4 5
.MODEL MDTH D IS=1E-8 KF=3.104131E-15 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 2.600000E+01
RIN 15 16 2.600000E+01
RIS 11 15 2.003862E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 1.000000E-05
CPS 11 15 3.783376E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 0.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 2.000000E+00
FCP 4 5 VOFP 3.400000E+01
FCN 5 4 VOFN 3.400000E+01
FIBP 2 5 VOFN 2.000000E-03
FIBN 5 1 VOFP 2.000000E-03
* AMPLIFYING STATE
FIP 5 19 VOFP 3.600000E+02
FIN 5 19 VOFN 3.600000E+02
RG1 19 5 3.652997E+06
RG2 19 4 3.652996E+06
CC 19 5 6.000000E-09
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 7.500000E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 7.500000E+03
VINM 5 27 1.500000E+02
EOUT 26 23 19 5 1
VOUT 23 5 0
ROUT 26 3 20
COUT 3 5 1.000000E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 2.242230E+00
DON 24 19 MDTH 400E-12
VON 24 5 7.922301E-01
.ENDS
**********
*SRC=LS204MS;LS204MS;Opamps;SGS;Low Noise Bipolar
*SYM=SGSOPAMP
.SUBCKT LS204MS 1 3 2 4 5
.MODEL MDTH D IS=1E-8 KF=6.565195E-17 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 2.600000E+01
RIN 15 16 2.600000E+01
RIS 11 15 1.061852E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 1.000000E-05
CPS 11 15 12.47E-10
DINN 17 13 MDTH 400E-12
VIN 17 5 1.500000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 1.500000E+00
FCP 4 5 VOFP 3.400000E+01
FCN 5 4 VOFN 3.400000E+01
FIBP 2 5 VOFN 1.000000E-02
FIBN 5 1 VOFP 1.000000E-02
* AMPLIFYING STATE
FIP 5 19 VOFP 9.000000E+02
FIN 5 19 VOFN 9.000000E+02
RG1 19 5 1.727221E+06
RG2 19 4 1.727221E+06
CC 19 5 6.000000E-09
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 6.521739E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 6.521739E+03
VINM 5 27 1.500000E+02
GCOMP 5 4 4 5 6.485084E-04
RPM1 5 80 1E+06
RPM2 4 80 1E+06
GAVPH 5 82 19 80 2.59E-03
RAVPHGH 82 4 771
RAVPHGB 82 5 771
RAVPHDH 82 83 1000
RAVPHDB 82 84 1000
CAVPHH 4 83 0.33E-09
CAVPHB 5 84 0.331-09
EOUT 26 23 82 5 1
VOUT 23 5 0
ROUT 26 3 6.498455E+01
COUT 3 5 1.000000E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 1.742230E+00
DON 24 19 MDTH 400E-12
VON 24 5 1.742230E+00
.ENDS
**********
*SRC=LS404MS;LS404MS;Opamps;SGS;Low Noise Bipolar
*SYM=SGSOPAMP
.SUBCKT LS404MS 1 3 2 4 5
.MODEL MDTH D IS=1E-8 KF=6.647807E-16 CJO=10F
*INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 1.300000E+01
RIN 15 16 1.300000E+01
RIS 11 15 6.437882E+01
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 2.000000E-05
CPS 11 15 9.75E-10
DINN 17 13 MDTH 400E-12
VIN 17 5 0.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 1.500000E+00
FCP 4 5 VOFP 1.525000E+01
FCN 5 4 VOFN 1.525000E+01
FIBP 2 5 VOFN 5.000000E-03
FIBN 5 1 VOFP 5.000000E-03
* AMPLIFYING STATE
FIP 5 19 VOFP 1.125000E+03
FIN 5 19 VOFN 1.125000E+03
RG1 19 5 6.512062E+05
RG2 19 4 6.512062E+05
CC 19 29 1.500000E-08
HZTP 30 29 VOFP 8.944787E+02
HZTN 5 30 VOFN 8.944787E+02
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 6.521739E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 6.521739E+03
VINM 5 27 1.500000E+02
GCOMP 5 4 4 5 7.485029E-04
RPM1 5 80 1E+09
RPM2 4 80 1E+09
GAVPH 5 82 19 80 2.99E-03
RAVPHGH 82 4 668
RAVPHGB 82 5 668
RAVPHDH 82 83 1000
RAVPHDB 82 84 1000
CAVPHH 4 83 0.352E-09
CAVPHB 5 84 0.352E-09
EOUT 26 23 82 5 1
VOUT 23 5 0
ROUT 26 3 150
COUT 3 5 1.000000E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 1.785252E+00
DON 24 19 MDTH 400E-12
VON 24 5 1.785252E+00
.ENDS
**********
